US08633189B2
A mixture of 2-(4-tert-butyl-3-hydroxy-phenyl)isoindoline-1,3-dione (450 mg, 1.52 mmol), dimethyl sulfate (385 mg, 288 μL, 3.05 mmol), K2CO3 (632 mg, 4.57 mmol) in acetone (10 mL) was stirred at 50° C. for 3 h. The reaction was cooled to room temperature, filtered and washed with acetone (10 mL). The filtrate was concentrated in vacuo and the residue purified by silica gel chromatography (20% ethyl acetate/hexane) to provide 2-(4-tert-butyl-3-methoxyphenyl)isoindoline-1,3-dione (420 mg, 89% yield). 1H NMR (400.0 MHz, CDCl3) δ 7.72 (m, 2H), 7.55 (m, 2H), 7.15 (d, J=8.3 Hz, 1H), 6.72 (dd, J=2.1, 8.2 Hz, 1H), 6.68 (d, J=2.0 Hz, 1H), 3.61 (s, 3H), 1.15 (d, J=3.4 Hz, 9H).

reactant | 2-(4-tert-butyl-3-hydroxy-phenyl)isoindoline-1,3-dione | 1.52 mmol, 450 mg | C(C)(C)(C)C1=C(C=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)O | C18H17NO3
reactant | dimethyl sulfate | 3.05 mmol, 288 μL, 385 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | K2CO3 | 4.57 mmol, 632 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2-(4-tert-butyl-3-methoxyphenyl)isoindoline-1,3-dione | 420 mg, 89% yield | C(C)(C)(C)C1=C(C=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)OC | C19H19NO3
